US20010027196A1
Following the method of Jaeger (Liebigs. Ann. Chem. 1891, 262, 365), a mixture of 12.4 ml (72 mmol) ethyl benzoylacetate and 7.79 g (43.2 mmol) guanidine carbonate in 25 ml ethanol was heated at 80° C. for 4 h. The reaction mixture was then cooled to room temperature and the resulting crystals collected by filtration and washed sequentially with ice-cold water and ethanol to afford 7.2 g (53%) 2-amino-6-phenyl-3H-pyrimidin-4-one as a white crystalline solid. EI-MS m/e (%): 187 (M+, 100).

reactant | ethyl benzoylacetate | 72 mmol, 12.4 ml | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | guanidine carbonate | 43.2 mmol, 7.79 g | C(O)(O)=O.NC(=N)N
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-amino-6-phenyl-3H-pyrimidin-4-one | 7.2 g, 53% | NC1=NC(=CC(N1)=O)C1=CC=CC=C1 | C10H9N3O
